US05976759
Using 9.0 g of poly(p-hydroxystyrene) obtained according to (2) above and 4.0 g of diethyl pyrocarbonate, the procedure of (2) of Preparation Example 6 was followed to obtain 9.0 g of poly(p-ethoxycarbonyloxystyrene/p-hydroxystyrene) as white powdery crystal. P-ethoxycarbonyloxystyrene unit/p-hydroxystyrene unit molar ratio≈3:7 (1H NMR). Mw≈9,000; Mw/Mn=1.60 (GPC with polystyrene calibration).

reactant | poly(p-hydroxystyrene) | 9.0 g | C#CC1=CC=C(C=C1)O | C8H6O
reactant | diethyl pyrocarbonate | 4.0 g | C(OCC)(=O)OC(=O)OCC | C6H10O5
product | p-ethoxycarbonyloxystyrene p-hydroxystyrene | C(C)OC(=O)OC1=CC=C(C=C)C=C1.OC1=CC=C(C=C)C=C1 | InChI=1S/C11H12O3.C8H8O/c1-3-9-5-7-10(8-6-9)14-11(12)13-4-2;1-2-7-3-5-8(9)6-4-7/h3,5-8H,1,4H2,2H3;2-6,9H,1H2
